US07268133B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-7-ethoxy-2H-pyrazolo[4,3-d]pyrimidine (12A-1):
To a solution of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine (I-2A-1c; 50 mg, 0.133 mmol) and ethanol (0.016 ml, 0.27 mmol) in tetrahydrofuran (1.5 ml) was added NaH (60% dispersion in oil, 14 mg, 0.33 mmol). After stirring for 1 hour, the reaction was extracted from saturated aqueous NaHCO3 with ethyl acetate, the combined organic layers were dried (MgSO4), concentrated and purified on a Biotage® Flash 12M column using a solvent gradient of 0-20% ethyl acetate in hexanes as eluant to afford 12A-1 (46 mg, 92%) as a colorless solid: +ESI MS (M+1) 385.4; 1H NMR (400 MHz, CD2Cl2) δ 8.56 (s, 1H), 7.58-7.46 (m, 6H), 7.34 (d, J=8.7 Hz, 2H), 4.70 (q, J=7.1 Hz, 2H), 1.53 (t, J=7.1 Hz, 3H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine | 0.133 mmol, 50 mg | ClC=1C=2C(N=CN1)=C(N(N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
reactant | ethanol | 0.27 mmol, 0.016 ml | C(C)O | C2H6O
reactant | NaH | 0.33 mmol, 14 mg | [H-].[Na+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-7-ethoxy-2H-pyrazolo[4,3-d]pyrimidine | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2OCC)C2=C(C=CC=C2)Cl | C19H14Cl2N4O
